US04874769
5-[3-(2-Quinolylmethyloxy)Phenyl Tetrazole
A mixture of 8.8 g of 3-(2-quinolylmethyloxy)benzonitrile, 2.3 g of sodium azide and 1.9 g of ammonium chloride in 100 ml of dimethylformamide is stirred at 140° C. for 7 hours. An additional amount of sodium azide (1.2 g) and ammonium (1.0 g) is added and stirring resumed at 140° C. for 17 hours. The mixture is poured over ice and acidified with hydrochloric acid. The crude product solidifies and is filtered off to give 11 g of crude product. The crude product is slurried with hot methanol and filtered off. To a hot solution of this material is added enough water to cause trubidity. On cooling the compound crystallizes and is filtered off to yield 5.0 g of pure material having a M.P. of 200°-205° C. dec.

reactant | 3-(2-quinolylmethyloxy)benzonitrile | 8.8 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C#N)C=CC1 | C17H12N2O
reactant | sodium azide | 2.3 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.9 g | [Cl-].[NH4+]
reactant | sodium azide | 1.2 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium | 1.0 g | [NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 3-(2-Quinolylmethyloxy)Phenyl Tetrazole | 5.0 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C1=NN=NN1 | C17H13N5O
